US08293917B2
A solution of 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(5-bromo-pyridin-3-yl)-butyl]-amide (100 mg, 0.22 mmol), methanesulfonamide (85 mg, 0.89 mmol), copper(I) iodide (210 mg, 1.1 mmol) and cesium acetate (260 mg, 1.3 mmol) in DMSO (3 mL) is heated at 130° C. for 18 hours. After cooling to room temperature, saturated aqueous sodium ammonium chloride (2 mL) and saturated aqueous sodium bicarbonate (1 mL) are added and the resultant mixture is stirred for 30 min. The crude mixture is diluted with EtOAc (50 mL) and washed with saturated aqueous sodium ammonium chloride (25 mL), saturated aqueous sodium bicarbonate (25 mL) and brine (25 mL). The combined organic layers are dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by flash chromatography on silica gel (eluted with 0 to 6% MeOH/CH2Cl2) affords 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(5-methanesulfonylamino-pyridin-3-yl)-butyl]-amide as an off-white solid (38 mg, 36%).

reactant | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(5-bromo-pyridin-3-yl)-butyl]-amide | 0.22 mmol, 100 mg | BrC=1C=C(C=NC1)C(CCC)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C20H20BrClN4O
reactant | methanesulfonamide | 0.89 mmol, 85 mg | CS(=O)(=O)N | CH5NO2S
reactant | cesium acetate | 1.3 mmol, 260 mg | C(C)(=O)[O-].[Cs+]
reactant | sodium ammonium chloride | 2 mL | [Cl-].[NH4+].[Na]
reactant | sodium bicarbonate | 1 mL | C([O-])(O)=O.[Na+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 1.1 mmol, 210 mg | [Cu]I
product | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(5-methanesulfonylamino-pyridin-3-yl)-butyl]-amide | 38 mg, 36% | CS(=O)(=O)NC=1C=C(C=NC1)C(CCC)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C21H24ClN5O3S
